US06274735B1
3.77 g (6.15 mmol) of (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(quinolin-7-yl-methoxy)-piperidine-1-carboxylic acid tert-butylester and 0.93 g (3.12 mmol) of nickel(II) chloride hexahydrate were dissolved in 50 ml of methanol. 0.93 g (24.8 mmol) of sodium borohydride was added at 0° C. in small portions over a period of 30 minutes. The resulting black suspension was then stirred for 1 hour at 0° C., and 2 hours at room temperature. The reaction mixture was slowly poured into a vigorously stirred mixture of 150 ml 5% ammonium chloride solution and 400 ml of ether. After further stirring for 30 minutes, the organic phase was separated. The slightly blue aqueous phase was further extracted 5 times with ether. The combined organic phases were washed twice with distilled water, then dried over magnesium sulphate, filtered and concentrated. The crude product (3.2 g, yellow oil) was chromatographed on silica gel with ethyl acetate/hexane 1:1 to yield 2.92 g (76.9% of theory) of (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as a colourless oil; MS: 617 (M+H)+.

reactant | (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(quinolin-7-yl-methoxy)-piperidine-1-carboxylic acid tert-butylester | 6.15 mmol, 3.77 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2C=CC=NC2=C1 | C37H44N2O6
reactant | sodium borohydride | 24.8 mmol, 0.93 g | [BH4-].[Na+]
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
reactant | ether | 400 ml | CCOCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
catalyst | nickel(II) chloride hexahydrate | 3.12 mmol, 0.93 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-(1,2,3,4-tetrahydro-quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.92 g, 76.9% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCNC2=C1 | C37H48N2O6
